US07960369B2
tert-butyl 3-[4-[(2′-formylbiphenyl-3-yl)methoxy]phenyl]propanoate
A mixture of tert-butyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate (3.5 g, 8.94 mmol), 2-formylphenylboronic acid (1.47 g, 9.83 mmol), tetrakistriphenylphosphine palladium (413 mg, 0.36 mmol), 2N potassium carbonate aqueous solution (7 mL), ethanol (7 mL) and toluene (70 mL) was stirred under an argon atmosphere at 80° C. for 14 hrs. The reaction mixture was cooled, diluted with ethyl acetate, washed with water, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-4/1) to give the title compound (3.62 g, 97%) as a colorless oil.

reactant | tert-butyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | 8.94 mmol, 3.5 g | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC(C)(C)C)C=CC1 | C20H23BrO3
reactant | 2-formylphenylboronic acid | 9.83 mmol, 1.47 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | potassium carbonate | 2N, 7 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-[4-[(2′-formylbiphenyl-3-yl)methoxy]phenyl]propanoate | 3.62 g, 97% | C(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C27H28O4
